US06613942B1
8-(4-Chlorobenzyloxy)-4-formylquinoline (Step B):
Selenium dioxide (620 mg, 5.6 mmol) was suspended in dioxane (5 mL); a few drops of water was added until a clear solution was obtained. The mixture was heated to 100° C. and 8-(4-chlorobenzyloxy)-4-methyl quinoline (1.6 g, 5.6 mmol) in dioxane (20 mL) was added dropwise during a period of 2 hours. The mixture kept at 100° C. for 4 hours, filtered hot and concentrated. The residue was treated with 1N HCl (200 ml), and filtered. The filtrate was neutralized with 3N NaOH, and extracted with ethyl acetate (3×100 mL). The combined organic extracts were dried (Na2SO4), and concentrated. Recrystallization from toluene provided 1.02 g (62%) yellow needles.

reactant | Selenium dioxide | 5.6 mmol, 620 mg | [Se](=O)=O | O2Se
reactant | 8-(4-chlorobenzyloxy)-4-methyl quinoline | 5.6 mmol, 1.6 g | ClC1=CC=C(COC=2C=CC=C3C(=CC=NC23)C)C=C1 | C17H14ClNO
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | water | a few drops | O | H2O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 8-(4-Chlorobenzyloxy)-4-formylquinoline | 1.02 g, 62% | ClC1=CC=C(COC=2C=CC=C3C(=CC=NC23)C=O)C=C1 | C17H12ClNO2
